tb_loop_bufferfissa__g15_cm470p_r1.33k.cir - L40 ESPLORAZIONE da tb_loop_bufferfissa.cir, RG0L40 FB 0 7.87k; alter c124 = 470p; alter r128 = 1.33k
* Prima riga = titolo (docs/limitations.md #10).
*
* WHAT IT IS. Since ADR-023 each fixed output has its own buffer: THE gain
* block again (T3 / ADR-006), unity gain, driving 47 ohm + 4.7 uF + 470 k and
* the headphone amplifier behind them. It is block A's old situation on one
* output instead of two - so NC-002's 41.98 deg at 4.7 nF is the number this
* deck is expected to land near, and ADR-019 asks 60 deg.
*
* SOURCE: block A's output, ~1 ohm (tb_zout_psrr_noise: 1.04 ohm at 0 dB,
* flat to 20 kHz), modelled as RSRC. The flat include carries R113 = 1 MEG on
* IN, which preamp_audio.py does not fit on a buffer: against 1 ohm it does
* nothing.
*
* LOAD: RSEP 47 + CFIX 4.7 u + RBL 470 k + RLD at the jack. RLD is the
* Singxer's 10 k (hypothesised, as in G0) or the Stax's 50 k: above the loop's
* crossover the 4.7 uF is a short, so the headphone amp's resistance barely
* matters; both are run.
*
* CABLE: CPROBE swept 1 fF - 4.7 nF in two positions:
*   pos 1  at the JACK - where a real interconnect sits;
*   pos 2  on the OUTPUT NODE, before the 47 ohm - the position NC-002 used,
*          and the harsher one.
*
* LOOP BREAK: as in tb_loop.cir. R109 opened, RBRK + VINJ in series;
* T = v(fb)/v(g2). Margine di fase = |Tph| dove Tdb attraversa lo zero.
*
* VERDICT (L12, ADR-024): pos 1 counts - the cable at the jack, minimum over the
* whole sweep, which lies between 2.2 and 3.3 nF (hence the 1.5n/2.7n/3.3n points
* added in L12). Pos 2 is information. Manufacturer device models since L39.
*
* Nessun file si chiama tb_loop_bufferfissa_wrdata.txt: run_simulation.sh
* avvisa, e converte i .txt al secondo passaggio. La tabella e' un .csv
* scritto da echo.

.include @REPO@/models/jfet/lsk489.lib
.include @REPO@/models/bjt_npn/mmbt5551.lib
.include @REPO@/models/bjt_pnp/mmbt5401.lib
.include @REPO@/models/bjt_npn/mje15032.lib
.include @REPO@/models/bjt_pnp/mje15033.lib
.include @REPO@/models/diodes/1n4148.lib
.include @REPO@/models/bjt_pnp/ls350.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
* The source node is NOT called SRC: gain_block_flat.inc puts its devices at
* top level, and SRC is the JFET pair's common source there. The first L17
* run used SRC and shorted the tail to 0 V: loop gain 22 dB instead of ~72,
* crossover 76 MHz, and no error anywhere. check_deck_refs.py cannot see a
* node collision.
VIN VSRCN 0 DC 0
RSRC VSRCN IN 1

RRG RG 0 1G
RRG10  RG10 0 1G

RBRK FB NBRK 100
VINJ NBRK G2 DC 0 AC 1

RSEP OUT FIX 47
CFIX FIX JACK 4.7u
RBL  JACK 0 470k
RLD  JACK 0 10k

* the probe, in both positions; the unused one sits at 1 fF
CPJ JACK 0 1f
CPN OUT 0 1f

* L40: righe di netlist in piu' (varianti.py)
RG0L40 FB 0 7.87k
.control
* L40: variante
alter c124 = 470p
alter r128 = 1.33k
show c124 : capacitance
show r128 : resistance
show rg0l40 : resistance
set t = .txt
set u = _
alter r109 = 1G
set units = degrees
echo "pos,rld,cprobe,fcross_hz,pm_deg,tdb_10hz" > tb_loop_bufferfissa.csv
foreach rl 10k 50k
  alter rld = $rl
  foreach pos 1 2
    foreach cw 1f 47p 100p 220p 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
      if $pos = 1
        alter cpj = $cw
        alter cpn = 1f
      else
        alter cpj = 1f
        alter cpn = $cw
      end
      ac dec 100 1 100meg
      let T = v(fb)/v(g2)
      let Tdb = db(T)
      let Tph = ph(T)
      meas ac fcross when Tdb=0
      meas ac pmarg find Tph when Tdb=0
      meas ac tdc find Tdb at=10
      echo "BUFFER FISSA  RLD=$rl  pos=$pos  C=$cw"
      print fcross pmarg tdc
      echo "$pos,$rl,$cw,$&fcross,$&pmarg,$&tdc" >> tb_loop_bufferfissa.csv
      * curve: solo Singxer (10 k), sonda al jack (pos 1) e sul nodo (pos 2)
      *   col1 Tdb [dB]  col3 Tph [gradi]   (colonne pari = frequenza)
      if $rl = 10k
        let l40_nessuna_curva = 0
      end
      destroy all
    end
  end
end
.endc

.end
